US04528292
4-(1,2-Benzisothiazol-3-yl)piperidine-1-carboximidic acid cyclopropylmethyl ester
To 15 ml of cyclopropylcarbinol was added 0.05 g of Na metal. After the evolution of hydrogen gas ceased, 3-(1-cyano-4-piperidinyl)-1,2-benzisothiazole (4.0 g, 0.016 mole) was added. The temperature was raised to 60° C. to obtain a solution. Heat was removed and the reaction mixture was stirred at ambient temperature for 16 hours. Dry ice was added to the reaction mixture to destroy the excess alkoxide and the mixture was poured into water. The aqueous mixture was extracted with EtOAc. The EtOAc extract was washed with water and dried over MgSO4, and the solvent was removed in vacuo to leave an oil. The oil was triturated with hexane to yield 4.0 g of a solid. The solid was recrystallized twice from isopropyl ether to yield 2.4 g (46.3%) of the imidate as a solid, m.p. 85°-87°.

reactant | cyclopropylcarbinol | 15 ml | C1(CC1)CO | C4H8O
reactant | hydrogen | [H][H] | H2
reactant | 3-(1-cyano-4-piperidinyl)-1,2-benzisothiazole | 0.016 mole, 4.0 g | C(#N)N1CCC(CC1)C1=NSC2=C1C=CC=C2 | C13H13N3S
product | 4-(1,2-Benzisothiazol-3-yl)piperidine-1-carboximidic acid cyclopropylmethyl ester | 4.0 g | C1(CC1)COC(=N)N1CCC(CC1)C1=NSC2=C1C=CC=C2 | C17H21N3OS
